US08748444B2
To a solution of (R)-6-allyl-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (90 mg, 0.28 mmol) in dry THF (5 mL) was added dropwise 1 M BH3.THF (0.56 mL, 0.564 mmol) at 0° C. After stirring for 2 h at rt, the reaction mixture was cooled to 0° C. and water (1 mL), 3 M aqueous NaOH (0.5 mL) and 30% H2O2 (0.5 mL) were successively added. The mixture was stirred for 2-3 h at rt and was then diluted with water (6 mL). The pH was adjusted to 6-7 with 0.5 N HCl. The aqueous phase was extracted with EtOAc (3×5 mL). The combined organic layers were washed with saturated aqueous NaHCO3 solution (8 mL) and brine (8 mL), dried over Na2SO4, and concentrated in vacuo to give the crude product, which was purified by preparative TLC to afford (R)-3-((S)-3,3-dimethylbutan-2-yl-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one (2 mg, 2%). LC-MS Method 1 tR=1.179, min, m/z=338.1; 1H NMR (CDCl3) 0.65 (s, 9H), 0.99-1.06 (d, 3H), 1.18 (m, 1H), 1.29 (m, 1H), 1.61-1.71 (m, 1H), 1.83-2.08 (m, 3H), 2.21-2.28 (m, 1H), 2.62-2.73 (m, 1H), 3.06-3.13 (m, 1H), 3.47-3.53 (m, 2H), 4.36-4.43 (m, 1H), 6.98-7.06 (m, 2H), 7.22-7.26 (m, 2H)

reactant | (R)-6-allyl-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 0.28 mmol, 90 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C19H26FNO2
reactant | BH3.THF | 0.564 mmol, 1 M, 0.56 mL | B.C1CCOC1
reactant | NaOH | 3 M, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | (S)-3,3-dimethylbutan-2-yl-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one | 2 mg, 2% | CC(C(C)N1C(O[C@](CC1)(CCCO)C1=CC=C(C=C1)F)=O)(C)C | C19H28FNO3
